US07829570B2
1-(4-Nitrophenyl)propan-1-one
A solution of 0.5M ZnCl2 in THF (60 mL, 30 mmol) in THF (20 mL) at room temperature was treated with 2M ethyl magnesium chloride in THF (15 mL, 30 mmol) dropwise via syringe, cooled with an ice bath for about 10 minutes, stirred at room temperature for 20 minutes, cooled to 0° C., and treated sequentially with Pd(PPh3)4 (1.73 g, 1.5 mmol) and a solution of 4-nitrobenzoyl chloride (6.12 g, 33 mmol) in THF (20 mL). The mixture was stirred at 0° C. for 40 minutes, diluted with water and extracted three times with ethyl acetate. The combined extracts were washed with saturated Na2CO3, water, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 6:1 hexanes/ethyl acetate to provide 2.17 g (40%) of the desired product. Rf=0.6 (3:1 hexanes/ethyl acetate).

reactant | ethyl magnesium chloride | 2M | C(C)[Mg]Cl
reactant | 4-nitrobenzoyl chloride | 33 mmol, 6.12 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | ZnCl2 | 0.5M | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 1.5 mmol, 1.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 30 mmol, 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mmol, 60 mL | C1CCOC1 | C4H8O
product | 1-(4-Nitrophenyl)propan-1-one | 2.17 g, 40% | [N+](=O)([O-])C1=CC=C(C=C1)C(CC)=O | C9H9NO3
